US04010279
Ethyl 2-Methyl-2-[4-(2-acetamido-ethyl)-biphenyl-4'-oxy]-propionate was prepared from 4-(2-acetamido-ethyl)-4'-hydroxybiphenyl and ethyl 2-bromo-2-methyl-propionate analogous to Example 1. Yield: 20% of theory; m.p. <20° C.

reactant | 4-(2-acetamido-ethyl)-4'-hydroxybiphenyl | C(C)(=O)NCCC1=CC=C(C=C1)C1=CC=C(C=C1)O | C16H17NO2
reactant | ethyl 2-bromo-2-methyl-propionate | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | Ethyl 2-Methyl-2-[4-(2-acetamido-ethyl)-biphenyl-4'-oxy]-propionate | Yield: 20% | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCNC(C)=O | C22H27NO4
